US07015218B1
1-(3-Chloro-4-fluorophenyl)-N-[3-cyano-4-(4-morpholinopiperidin-1-yl) phenyl]-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(3-chloro-4-fluorophenyl)-5-methylpyrazole-4-carboxylic acid (1.5 g) and 5-amino-2-(4-morpholinopiperidin-1-yl) benzonitrile (1.9 g), the title compound (1.3 g) was obtained, melting point: 266° C.

reactant | 1-(3-chloro-4-fluorophenyl)-5-methylpyrazole-4-carboxylic acid | 1.5 g | ClC=1C=C(C=CC1F)N1N=CC(=C1C)C(=O)O | C11H8ClFN2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl) benzonitrile | 1.9 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | 1-(3-Chloro-4-fluorophenyl)-N-[3-cyano-4-(4-morpholinopiperidin-1-yl) phenyl]-5-methylpyrazole-4-carboxamide | 1.3 g | ClC=1C=C(C=CC1F)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)C#N | C27H28ClFN6O2
